US06858651B2
A suspension of 65 mg (0.165 mmol) of trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-prop-1-ynyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester in 5 ml MeOH and 7 mg Pt/C 10% was hydrogenated (1 atm) for 16 h. The reaction was filtered (Celite) and evaporated. Flash column chromatography on silica gel with CH2Cl2/MeOH (9:1) gave 21 mg (32%) of trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-propyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester, MS: 397 (MH+, 1Cl).

reactant | trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-prop-1-ynyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 0.165 mmol, 65 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCN(CCO)CC)=O | C21H29ClN2O3
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pt/C | 7 mg | [Pt] | Pt
product | trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-propyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 21 mg, 32% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCN(CCO)CC)=O | C21H33ClN2O3
